### PR TITLE
[Merged by Bors] - chore(Function): ext lemma checking points in the support

### PR DESCRIPTION
**Pull request by Raph-DG**
In this PR, we add in a variant of ext_iff_mulSupport which checks two functions are equal by checking they are equal at all points of the union of their supports. This was originally part of #38472, but having this lemma modify such a low level file was making it difficult to work on that PR

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Notation/Support.lean [hunk 1]
```diff
@@ -62,6 +62,15 @@ lemma ext_iff_mulSupport : f = g ↔ f.mulSupport = g.mulSupport ∧ ∀ x ∈ f
...
     else rw [notMem_mulSupport.1 hx, notMem_mulSupport.1 (mt (Set.ext_iff.1 h₁ x).2 hx)]
 
+@[to_additive]
+lemma ext_iff_mulSupport_union :
+    f = g ↔ ∀ x ∈ f.mulSupport ∪ g.mulSupport, f x = g x := by
+  rw [funext_iff]
+  refine ⟨fun h x _ ↦ h x, fun h x ↦ ?_⟩
+  by_cases o : x ∈ f.mulSupport ∪ g.mulSupport
+  · exact h x o
+  simp_all
```
Comment (themathqueen) [inline Mathlib/Algebra/Notation/Support.lean]:
```suggestion
  grind [mem_mulSupport]
```

Comment (Raph-DG) [reply Mathlib/Algebra/Notation/Support.lean]: Wow, thanks! Grind is very impressive :)

**Review by j-loreaux — COMMENTED** [review]
bors merge
